US07579488B2
Preparation of [(5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-2-carbonyl)-amino]-acetic acid
[(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-amino]-acetic acid (52 mg, 0.105 mmol) is reduced with NaBH4 (12 mg, 0.316 mmol) analogous to Example 3 to give the title product (45 mg, 86%).

reactant | [(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-amino]-acetic acid | 0.105 mmol, 52 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)NCC(=O)O)C1)C)=O)(C)C | C29H35NO6
reactant | NaBH4 | 0.316 mmol, 12 mg | [BH4-].[Na+]
product | [(5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-2-carbonyl)-amino]-acetic acid | 45 mg, 86% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(C=C(O2)C(=O)NCC(=O)O)C1 | C29H37NO6
